US06887877B2
To a stirred solution of 2-[(4-Iodo-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester (1 g. 1.65 mmol.) in toluene (100 ml.) were added P(Ph3)4Pd (123 mg., 0.107 mmol.) and 1,1,1,2,2,2-Hexabutyl-distannane (1.7 ml. 3.3 mmol.) under nitrogen. The reaction mixture was stirred and heated to 115° C. during 8 hrs. The progress of the reaction was monitored by TLC. Filtration and removal of the solvent under reduced pressure on a rotary evaporator followed by flash column chromatographic purification using 5% of EtOAc in hexane, afforded 2-[(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-(4-tributylstannanyl-benzyl)-amino]-3-phenyl-propionic acid methyl ester in 50% yield: 1HNMR (Varian 400 MHz, CDCl3) δ7.30 (d, 2H, J=7.9 Hz, HPhSn), 7.26 (m, 3H, HPh), 7.18 (d, 2H, J=7.0 Hz, HPh), 7.14 (d, 2H, J=8.1 Hz, HPhI), 6.53 (s, 1H, MTRH), 4.59 (m, 2H, NCH2Ph), 3.83 (s, 3H, OCH3), 3.26 (s, 3H, COOCH3), 3.18(dd, 1H, J=10.5 and 13.3 Hz, CHCH2), 2.92 (dd, 1H, J=4.3 and 13.3 Hz, CHCH2), 2.69 (s, 3H, ArCH3), 2.51 (s, 3H, ArCH3), 2.11 (s, 3H, ArCH3), 1.00(m, 27H, SnBu3) ppm.

reactant | 2-[(4-Iodo-benzyl)-(4-methoxy-2,3,6-trimethyl-benzenesulfonyl)-amino]-3-phenyl-propionic acid methyl ester | 1.65 mmol, 1 g | COC(C(CC1=CC=CC=C1)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC=C(C=C1)I)=O | C27H30INO5S
reactant | 1,1,1,2,2,2-Hexabutyl-distannane | 3.3 mmol, 1.7 ml | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-(4-tributylstannanyl-benzyl)-amino]-3-phenyl-propionic acid methyl ester | 50% yield | COC(C(CC1=CC=CC=C1)N(CC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O | InChI=1S/C27H30NO5S.3C4H9.Sn/c1-19-16-25(32-4)20(2)21(3)26(19)34(30,31)28(18-23-14-10-7-11-15-23)24(27(29)33-5)17-22-12-8-6-9-13-22;3*1-3-4-2;/h6,8-16,24H,17-18H2,1-5H3;3*1,3-4H2,2H3;
